US07799814B2
1,1′-Carbonyldiimidazole (3.86 g; 23.81 mmol; 1 eq.) is added to a 0° C. solution of 4-nitrobenzohydrazide (4.31 g; 23.81 mmol; 1 eq.) and triethylamine (4.95 ml; 35.71 mmol; 1.50 eq.) in DMF (150 ml). The reaction mixture is stirred between 0° C. and rt for 3.5 hours. Solvents are removed under vacuo affording an orange oil which is solubilized in DCM and washed with HCl 0.1 M. The organic phase is concentrated. The resulting precipitate is recovered by filtration, affording 5-(4-nitrophenyl)-1,3,4-oxadiazol-2-ol as a white solid (4.50 g; 91%).

reactant | 1,1′-Carbonyldiimidazole | 23.81 mmol, 3.86 g, 1 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-nitrobenzohydrazide | 23.81 mmol, 4.31 g, 1 eq. | [N+](=O)([O-])C1=CC=C(C(=O)NN)C=C1 | C7H7N3O3
reactant | triethylamine | 35.71 mmol, 4.95 ml, 1.50 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(4-nitrophenyl)-1,3,4-oxadiazol-2-ol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN=C(O1)O | C8H5N3O4
